US05739129
2-Amino-N-isopropyl-N-(4-methoxy-phenyl)-acetamide
A solution of 2.86 g of 2-bromo-N-isopropyl-N-(4-methoxy-phenyl)-acetamide (10 mmol) in 100 mL methanol was saturated with ammonia at 0° and left for 3 days at ambient temperature in a sealed flask. Methanol and ammonia were removed in vacuo and the residue was dissolved in 100 mL of chloroform and washed with water (2×50 mL). The organic layer was dried over anhydrous MgSO4, filtered, concentrated in vacuo and dried under high vacuum to afford 2.7 g of the title compound as an oil. 1H NMR (300 MHz, CDCl3) d 6.96 (m, 4H), 4.99 (m, 1H), 3.84 (s, 3H), 2.97 (s, 2H), 1.58 (s, 2H), 1.05 (d, 6H, J=6.6); low resolution MS (ESI)m/e 223 (MH+).

reactant | 2-bromo-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 10 mmol, 2.86 g | BrCC(=O)N(C1=CC=C(C=C1)OC)C(C)C | C12H16BrNO2
reactant | ammonia | N | H3N
solvent | methanol | 100 mL | CO | CH4O
product | 2-Amino-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 2.7 g | NCC(=O)N(C1=CC=C(C=C1)OC)C(C)C | C12H18N2O2
